US05480988
Step A. 2-[3-(Methyl-prop-2-ynyl-amino)-propyl]-isoindole-1,3-dione
A mixture of bromopropylphthalimide (15.51 g, 0.058 mol), N-methyl-N-propargyl amine (5.0 g, 0.()72 mol), potassium carbonate (12.0 g, 0.087 mol), and toluene (40 ml) was refluxed for 4 hours, filtered and the insoluble washed with toluene. After removal of the solvent, the residue was dried in vacuo to provide 14.3 g of title product.

reactant | bromopropylphthalimide | 0.058 mol, 15.51 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | N-methyl-N-propargyl amine | 72 mol, 5.0 g | CNCC#C | C4H7N
reactant | potassium carbonate | 0.087 mol, 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(Methyl-prop-2-ynyl-amino)-propyl]-isoindole-1,3-dione | 14.3 g | CN(CCCN1C(C2=CC=CC=C2C1=O)=O)CC#C | C15H16N2O2
